US06642240B2
1-(Benzyloxycarbonyl)-3-(S)-(4-fluoro-2-methyl-phenyl)-piperazine
A solution of benzylchloroformate (376 μL) in dry DCM (20 mL) was added drop-wise to a solution of the 2-(S)-(4-fluoro-2-methyl-phenyl)-piperazine dihydrochloride (700 mg) and TEA (1.1 mL) in DCM (30 mL) previously cooled to 0° C. under a nitrogen atmosphere. The mixture was stirred at r.t. for 2 hrs, then washed with brine. The organic layer was dried, concentrated in vacuo and the residue was purified by flash chromatography (from CH/AcOEt 1:1 to AcOEt 100%) to give the title compound (750 mg) as colourless oil.

reactant | benzylchloroformate | 376 μL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | 2-(S)-(4-fluoro-2-methyl-phenyl)-piperazine dihydrochloride | 700 mg | Cl.Cl.FC1=CC(=C(C=C1)[C@@H]1NCCNC1)C
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-(Benzyloxycarbonyl)-3-(S)-(4-fluoro-2-methyl-phenyl)-piperazine | 750 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@@H](NCC1)C1=C(C=C(C=C1)F)C | C19H21FN2O2
